US07981903B2
6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide (101 mg, 0.138 mmol) was dissolved in 1,4-dioxane (10 mL) and transferred to a 20 ml microwave vessel. Water (3 mL) and a solution of 6M NaOH (3 ml) and was added and reaction heated in microwave at 120° C. for 10 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid that was purified via chromatography on SiO2 to afford 6-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-(1-methylethyl)benzamide (45 mg, 0.078 mmol) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.06 (d, J=6.50 Hz, 6 H), 2.26 (s, 6 H), 3.10 (t, J=8.24 Hz, 2 H), 3.17 (s, 2 H), 3.77 (s, 3 H), 3.94-4.08 (m, 1 H), 4.17 (t, J=8.29 Hz, 2 H), 6.30 (br. s., 1 H), 6.86-6.99 (m, 2 H), 7.31-7.43 (m, 1 H), 7.50 (s, 1 H), 7.92-8.02 (m, 1 H), 8.51 (d, J=7.60 Hz, 1 H), 8.64 (s, 1 H), 9.31 (s, 1 H), 11.20 (br. s., 1 H). (ESIMS (M+H)+=579)

reactant | 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide | 0.138 mmol, 101 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)NC(C)C)F)F)OC)C | C36H38F2N8O5S
reactant | Water | 3 mL | O | H2O
reactant | NaOH | 6M, 3 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-(1-methylethyl)benzamide | 0.078 mmol, 45 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=CC=C(C(=C2C(=O)NC(C)C)F)F)OC)C | C29H32F2N8O3
